US06172065B2
6-Methyl-5-methylaminomethyl-7-nitro-1,4-dihydro-quinoxaline-2,3-dione
To a cooled (10° C.) solution of 6-methyl-5-methylaminomethyl-1,4-dihydro-quinoxaline-2,3-dione (10° C.) of (1.23 g, 5.6 mmol) in concentrate H2SO4 (5 mL), KNO3 (0.606 g, 6 mmol) was added. Reaction mixture stirred overnight and quenched with ice. Green ppt filtered and washed with ice-cold water and dried (0.77 g, 42%); mp 260-261° C.

reactant | 6-methyl-5-methylaminomethyl-1,4-dihydro-quinoxaline-2,3-dione | CC=1C(=C2NC(C(NC2=CC1)=O)=O)CNC | C11H13N3O2
reactant | KNO3 | 6 mmol, 0.606 g | [N+](=O)([O-])[O-].[K+]
solvent | H2SO4 | 5 mL | OS(=O)(=O)O | H2O4S
product | 6-Methyl-5-methylaminomethyl-7-nitro-1,4-dihydro-quinoxaline-2,3-dione | CC=1C(=C2NC(C(NC2=CC1[N+](=O)[O-])=O)=O)CNC | C11H12N4O4
